US04880809
A mixture of 1-(3-benzyloxy-2-methoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.7 g), a 30% acetic acid solution of hydrobromic acid (6 ml) and acetic acid (12 ml) is stirred at room temperature for 40 minutes. To the reaction mixture is added ether (100 ml), and the resulting precipitates are collected by filtration. To the precipitates are added ethyl acetate and water. The mixture is shaken, then the organic layer is separated. The organic layer is washed with an aqueous solution of sodium hydrogencarbonate, and water, and dried, followed by distilling off the solvent under reduced pressure. The residue is purified by silica gel column chromatography (eluent, hexane:ethyl acetate:acetone:methylene chloride=1:1:1:1) to give 1-(3-hydroxy-2-methoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.2 g). Recrystallization of this product from ethyl acetate affords colorless crystals, m.p. 198°-199° C.

reactant | 1-(3-benzyloxy-2-methoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.7 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1OC | C34H38N2O7
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 6 ml | Br | BrH
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(3-hydroxy-2-methoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.2 g | OC1=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1OC | C27H32N2O7
